US07723333B2
2-tert-Butyl-4-{[1-(6-methoxypyridazin-3-yl)piperidin-4-yl]amino}-5-phenylisothiazol-3(2H)-one 1,1-dioxide
2-tert-Butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide (0.300 g, 1.00 mmol), 1-(6-methoxypyridazin-3-yl)piperidin-4-amine dihydrochloride (0.349 g, 1.24 mmol) and TEA (0.405 g, 4.00 mmol) was dissolved in dry DMF (10 ml) and heated in a microwave reactor at 120° C. for 30 mins. The reaction mixture was diluted with water (200 ml) and extracted with EtOAc (200 ml). The organic phase was dried over MgSO4, filtered and evaporated. The residue was purified by silica gel column chromatography using a 55:45 mixture of heptane and EtOAc as eluant, to give the title compound (0.232 g, 49%). 1H NMR (500 MHz, CDCl3): δ 7.54-7.49 (m, 2H), 7.46-7.41 (m, 3H), 6.92 (d, 1H), 6.79 (d, 1H), 5.2 (d, 1H), 4.00 (s, 3H), 3.93-3.87 (m, 2H), 3.17-3.08 (m, 1H), 2.53-2.45 (m, 2H), 1.77-1.71 (m, 2H), 1.72 (s, 9H), 1.44-1.35 (m, 2H); 13C NMR (125 MHz, CDCl3): δ 160.1, 159.6, 157.3, 133.8, 131.6, 129.9, 128.7, 125, 119.4, 119.1, 107, 61.6, 54.3, 50.1, 45.1, 31.6, 27.6; Mass Spectrum: M−H+ 472.

reactant | 2-tert-Butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 1.00 mmol, 0.300 g | C(C)(C)(C)N1S(C(=C(C1=O)Cl)C1=CC=CC=C1)(=O)=O | C13H14ClNO3S
reactant | 1-(6-methoxypyridazin-3-yl)piperidin-4-amine dihydrochloride | 1.24 mmol, 0.349 g | Cl.Cl.COC1=CC=C(N=N1)N1CCC(CC1)N
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | 200 ml | O | H2O
product | 2-tert-Butyl-4-{[1-(6-methoxypyridazin-3-yl)piperidin-4-yl]amino}-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 0.232 g, 49% | C(C)(C)(C)N1S(C(=C(C1=O)NC1CCN(CC1)C=1N=NC(=CC1)OC)C1=CC=CC=C1)(=O)=O | C23H29N5O4S
